US08420655B2
5-[1-tert-Butyl-2-(2-pyrazol-1-yl-5-trifluoromethyl-phenyl)-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine
A 6 mL aliquot of 2-pyrazol-1-yl-5-trifluoromethyl-benzaldehyde from the above reaction is filtered (in DMF, 50% pure by LC-MS, calculated mass based on purity is 98 mg, 0.41 mmol). The crude aldehyde is treated with 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (100 mg, 0.39 mmol). Oxone (239 mg, 0.39 mmol) is added as a water solution (1 mL). The resulting mixture is warmed to 60° C. for 2 hours and cooled to room temperature, poured into water and extracted with EtOAc (3×). The combined organics are dried (MgSO4), filtered, and concentrated. Purification via flash chromatography (12 g silica gel, 0-6% MeOH/CH2Cl2) follows by mass triggered HPLC (CH3CN/H2O) affords the title compound (40 mg, 22%). LCMS (ESMS): m/z 478.20 (M++1)

reactant | 2-pyrazol-1-yl-5-trifluoromethyl-benzaldehyde | N1(N=CC=C1)C1=C(C=O)C=C(C=C1)C(F)(F)F | C11H7F3N2O
reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.39 mmol, 100 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | Oxone | 0.39 mmol, 239 mg | OOS(=O)[O-].[K+]
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 5-[1-tert-Butyl-2-(2-pyrazol-1-yl-5-trifluoromethyl-phenyl)-1H-benzimidazol-5-yl]-pyrimidin-2-ylamine | 40 mg, 22% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)C(F)(F)F)N2N=CC=C2 | C25H22F3N7
